US07820699B2
71.1 Using general method G, 1-(4-amino-3-fluoro-phenyl)-1H-pyrazin-2-one (prepared according to WO 2003045912) was activated with 4-nitrophenyl chloroformate to give [2-fluoro-4-(2-oxo-2H-pyrazin-1-yl)-phenyl]-carbamic acid 4-nitro-phenyl ester. Pale yellow solid.

reactant | 1-(4-amino-3-fluoro-phenyl)-1H-pyrazin-2-one | NC1=C(C=C(C=C1)N1C(C=NC=C1)=O)F | C10H8FN3O
reactant | 4-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
product | [2-fluoro-4-(2-oxo-2H-pyrazin-1-yl)-phenyl]-carbamic acid 4-nitro-phenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(NC1=C(C=C(C=C1)N1C(C=NC=C1)=O)F)=O | C17H11FN4O5
